US05516806
a) 2-[cis-2-(N-BOC-aminomethyl)-cyclopropylmethoxy]-1H-isoindole-1,3(2H)-dione
A solution of 2.61 ml (0.0157 mol) of diethyl azodicarboxylate (93%) in 15 ml of benzene is added dropwise to a mixture of 3 g (0.0149 mol) of cis-2-(N-BOC-aminomethyl)-cyclopropanemethanol, 2.43 g (0.0149 mol) of N-hydroxyphthalimide, 3.9 g (0.0149 mol) of triphenylphosphine and 120 ml of benzene at 20°-30° C., while stirring. The reaction mixture is stirred at room temperature for 16 hours and filtered, the crystalline residue is washed with benzene and the filtrate is evaporated in vacuo. The residue is purified by means of flash chromatography on silica gel using hexane and hexane/ethyl acetate (2:1). After evaporation of the product-containing fractions and crystallization of the residue from methanol/hexane, the title compound is obtained, m.p. 96°-97° C.

reactant | diethyl azodicarboxylate | 0.0157 mol, 2.61 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | cis-2-(N-BOC-aminomethyl)-cyclopropanemethanol | 0.0149 mol, 3 g | C(=O)(OC(C)(C)C)NC[C@@H]1[C@@H](C1)CO | C10H19NO3
reactant | N-hydroxyphthalimide | 0.0149 mol, 2.43 g | ON1C(C=2C(C1=O)=CC=CC2)=O | C8H5NO3
reactant | triphenylphosphine | 0.0149 mol, 3.9 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | benzene | 15 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 120 ml | C1=CC=CC=C1 | C6H6
product | 2-[cis-2-(N-BOC-aminomethyl)-cyclopropylmethoxy]-1H-isoindole-1,3(2H)-dione | C(=O)(OC(C)(C)C)NC[C@@H]1[C@@H](C1)CON1C(C2=CC=CC=C2C1=O)=O | C18H22N2O5
